US07625901B2
Step A. Benzyl (5-chloro-3-ethyl-2-oxo-6-phenylpyrazin-1(2H)-yl)acetate
A solution of benzyl (3,5-dichloro-2-oxo-6-phenylpyrazin-1 (2H)-yl)acetate [Parlow et al. (2003) J. Med. Chem. 46, 4050-4062] (1.05 g, 2.70 mmol), tetraethyltin (0.641 mL, 3.24 mmol), and tetrakis(triphenylphosphine)palladium (31.0 mg, 0.027 mmol) in toluene (15 mL) was heated at reflux for 5.5 h. The solution was concentrated in vacuo and the crude product purified by silica gel chromatography, eluting with a gradient of CH2Cl2:EtOAc-100:0 to 90:10 to give the title compound. MS: m/z=383 (M+1).

reactant | benzyl (3,5-dichloro-2-oxo-6-phenylpyrazin-1 (2H)-yl)acetate | 2.70 mmol, 1.05 g | ClC=1C(N(C(=C(N1)Cl)C1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1)=O | C19H14Cl2N2O3
reactant | tetraethyltin | 3.24 mmol, 0.641 mL | C(C)[Sn](CC)(CC)CC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.027 mmol, 31.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Benzyl (5-chloro-3-ethyl-2-oxo-6-phenylpyrazin-1(2H)-yl)acetate | ClC=1N=C(C(N(C1C1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1)=O)CC | C21H19ClN2O3
